US06194406B1
Combine methyl 2-methoxy-5-hydroxymethylbenzoate (1.34 g, 6.8 mmol) and N,N-diisopropylethylamine (1.4 mL) in dichloromethane (25 mL). Cool in a ice-bath. Add dropwise, methanesulfonyl chloride (0.56 mL). After 30 minutes, warm to ambient temperature. After 2 hours, dilute with dichloromethane and extract with 1 M hydrochloric acid solution and 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give methyl 2-methoxy-5-chloromethylbenzoate: Rf=0.64 (silica gel, 1/1 ethyl acetate/hexane).

reactant | methyl 2-methoxy-5-hydroxymethylbenzoate | 6.8 mmol, 1.34 g | COC1=C(C(=O)OC)C=C(C=C1)CO | C10H12O4
reactant | N,N-diisopropylethylamine | 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.56 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl 2-methoxy-5-chloromethylbenzoate | COC1=C(C(=O)OC)C=C(C=C1)CCl | C10H11ClO3
